US07071208B2
8-Bromo-3-(2-methyl-2-nitropropyl)imidazo[1,2-a]pyridine (1.0 g, 3.35 mmol) and 4-trifluoromethyl-benzeneboronic acid (0.96 g, 5.05 mmol) are coupled as described in Amine 14 to give 1.23 g of 3-(2-methyl-2-nitropropyl)-8-(4-trifluoromethyl-phenyl)imidazo[1,2-a]pyridine (100%).

reactant | 8-Bromo-3-(2-methyl-2-nitropropyl)imidazo[1,2-a]pyridine | 3.35 mmol, 1.0 g | BrC=1C=2N(C=CC1)C(=CN2)CC(C)([N+](=O)[O-])C | C11H12BrN3O2
reactant | 4-trifluoromethyl-benzeneboronic acid | 5.05 mmol, 0.96 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
product | 3-(2-methyl-2-nitropropyl)-8-(4-trifluoromethyl-phenyl)imidazo[1,2-a]pyridine | 1.23 g, 100% | CC(CC1=CN=C2N1C=CC=C2C2=CC=C(C=C2)C(F)(F)F)(C)[N+](=O)[O-] | C18H16F3N3O2
